US07217730B2
1-(4-Bromo-7-fluoro-1H-indol-3-yl)-propan-2-ol
To a solution of (4-bromo-7-fluoro-1H-indol-3-yl)-acetaldehyde (358 mg, 1.40 mmol) in THF (10 mL) was added a solution of MeMgBr (4.0 mL of 1.4 M in toluene-THF (75:25), 5.59 mmol) at room temperature. The mixture was stirred overnight at room temperature. The reaction mixture was quenched with H2O and extracted with EtOAc (3×20 mL). The combined organic phase was washed with brine (50 mL), dried over Na2SO4 and concentrated. The residue was purified by flash chromatography (silica, 30% EtOAc in hexanes) to give 158 mg (42%) of the title compound as a white solid. 1H NMR (CDCl3): 300 MHz δ 8.97 (bs, 1H), 7.11 (dd, J=8.10, 4.20 Hz, 1H), 6.70 (dd, J=10.2, 8.10 Hz, 1H), 4.18 (m, 1H), 3.29(dd, J=14.5, 3.93 Hz, 1H), 2.87 (dd, J=14.5, 8.43 Hz, 1H), 2.16 (bs, 1H), 1.29 (d, J=6.18 Hz, 3H).

reactant | (4-bromo-7-fluoro-1H-indol-3-yl)-acetaldehyde | 1.40 mmol, 358 mg | BrC1=C2C(=CNC2=C(C=C1)F)CC=O | C10H7BrFNO
reactant | MeMgBr | 5.59 mmol, 1.4 M, 4.0 mL | C[Mg+].[Br-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(4-Bromo-7-fluoro-1H-indol-3-yl)-propan-2-ol | 158 mg, 42% | BrC1=C2C(=CNC2=C(C=C1)F)CC(C)O | C11H11BrFNO
